US08492401B2
A solution of tert-butyl 5-methyl-2-phenylthiazole-4-carboxylate (1.0 g. 3.64 mmol), N-bromosuccinimide (NBS) (0.65 g 3.64 mmol), and benzoyl peroxide (BPO) (5.5 mg, 0.023 mmol) in CCl4 (30 ml) was heated at reflux for 16 h. The reaction mixture was concentrated in vacuo and purified by flash chromatography to give tert-butyl 5-(bromomethyl)-2-phenylthiazole-4-carboxylate as a light yellow solid (0.96 g, 75% yield).

reactant | tert-butyl 5-methyl-2-phenylthiazole-4-carboxylate | 3.64 mmol, 1.0 g | CC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C15H17NO2S
reactant | N-bromosuccinimide | 3.64 mmol, 0.65 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.023 mmol, 5.5 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | tert-butyl 5-(bromomethyl)-2-phenylthiazole-4-carboxylate | 0.96 g, 75% yield | BrCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C15H16BrNO2S
